US08003226B2
5.00 g of N-ethylcarbazole was dissolved in 130 ml of dehydrated DMF in a flask whose atmosphere was replaced with argon. This solution was cooled to 0° C., 4.60 g of N-bromosuccinimide was charged as 5 divided fractions for 3 hours. After raising the temperature to room temperature and stirring for 12 hours, the reaction liquid was thrown into iced water and filtrated. The residue was washed with water and methanol, and dried under reduced-pressure to give 6.28 g crude product. It was purified with silica gel column chromatography (eluent: cyclohexane containing 0.1% triethylamine), and 5.68 g of N-ethyl-3-bromo carbazole was obtained.

reactant | N-ethylcarbazole | 5.00 g | C(C)N1C2=CC=CC=C2C=2C=CC=CC12 | C14H13N
reactant | N-bromosuccinimide | 4.60 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | water | O | H2O
solvent | DMF | 130 ml | CN(C)C=O | C3H7NO
product | N-ethyl-3-bromo carbazole | 5.68 g | C(C)N1C2=CC=CC=C2C=2C=C(C=CC12)Br | C14H12BrN
